US04649146
To a solution of 2-[2-(N-methylformamido)-4-methylthiazol-5-yl]-7-methylimidazo[1,2-a]pyridine (4.87 g) in ethanol (200 ml) was added 36% hydrochloric acid (2.6 ml) and refluxed for 1.5 hours. The reaction mixture was evaporated. The residue was dissolved in water, and the aqueous mixture was adjusted to pH 8 with saturated potassium carbonate. Extraction with chloroform, and evaporation afforded 2-(2-methylamino-4-methylthiazol-5-yl)-7-methyl-imidazo[1,2-a]pyridine (3.22 g). mp 220°-221° C.

reactant | 2-[2-(N-methylformamido)-4-methylthiazol-5-yl]-7-methylimidazo[1,2-a]pyridine | 4.87 g | CN(C=O)C=1SC(=C(N1)C)C=1N=C2N(C=CC(=C2)C)C1 | C14H14N4OS
reactant | hydrochloric acid | 2.6 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-methylamino-4-methylthiazol-5-yl)-7-methyl-imidazo[1,2-a]pyridine | 3.22 g | CNC=1SC(=C(N1)C)C=1N=C2N(C=CC(=C2)C)C1 | C13H14N4S
